US04291175
9-(2-Furyl)-1,2,9-nonanetriol
To 640 ml. of 1.0 M. boranetetrahydrofuran complex in tetrahydrofuran is added a solution of 81 g. of 8-(2-furoyl)-2-hydroxyoctanoic acid in 240 ml. of tetrahydrofuran during one hour while maintaining a temperature of 0°-10° C. After the addition, the solution is stirred at room temperature for 3 hours, is cooled to 0° C., and treated cautiously with 80 ml. of 1:1 aqueous tetrahydrofuran. The resulting mixture is diluted with ethyl acetate. The solution is washed successively with an ice-cold brine-hydrochloric acid mixture, brine, brine-sodium bicarbonate solution and brine. The solution is dried over magnesium sulfate and concentrated to give an oil; pmr (CDCl3) δ 4.70 (triplet).

reactant | 8-(2-furoyl)-2-hydroxyoctanoic acid | O1C(=CC=C1)C(=O)CCCCCCC(C(=O)O)O | C13H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(2-Furyl)-1,2,9-nonanetriol | O1C(=CC=C1)C(CCCCCCC(CO)O)O | C13H22O4
